# Qucs 0.0.19  C:/Users/Ben/.qucs/Coupled Microstrip Circulator Non-Para.sch

Pac:P1 gnd _net0 Num="1" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
MLIN:MS3 _net1 _net2 Subst="Subst1" W="2.2 mm" L="0.70 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
R:R1 _net3 gnd R="50 Ohm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
Pac:P3 _net4 gnd Num="3" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Pac:P2 gnd _net5 Num="2" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
SUBST:Subst1 er="4.5" h="1.6 mm" t="35 um" tand="2e-4" rho="0.022e-6" D="0.15e-6"
Eqn:Eqn1 reflect="dB(S[1,1])" through="dB(S[1,2])" isolate="dB(S[1,3])" couple="dB(S[2,3])" Export="yes"
.SP:SP1 Type="lin" Start="700 MHz" Stop="1.1 GHz" Points="600" Noise="no" NoiseIP="1" NoiseOP="2" saveCVs="no" saveAll="no"
MLIN:MS18 _net6 _net7 Subst="Subst1" W="0.91 mm" L="10.5 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MLIN:MS6 _net3 _net8 Subst="Subst1" W="2.2 mm" L="10.3 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MLIN:MS4 _net4 _net9 Subst="Subst1" W="2.2 mm" L="12 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MVIA:MS20 _net6 gnd Subst="Subst1" D="1 mm" Temp="26.85"
MMBEND:MS13 _net10 _net11 Subst="Subst1" W="2.2 mm"
MMBEND:MS15 _net12 _net2 Subst="Subst1" W="2.2 mm"
MMBEND:MS16 _net13 _net9 Subst="Subst1" W="2.2 mm"
MMBEND:MS14 _net14 _net15 Subst="Subst1" W="2.2 mm"
MTEE:MS17 _net8 _net1 _net16 Subst="Subst1" W1="2.2 mm" W2="2.2 mm" W3="0.91 mm" MSModel="Hammerstad" MSDispModel="Kirschning" Temp="26.85"
MMBEND:MS19 _net17 _net7 Subst="Subst1" W="0.91 mm"
MLIN:MS2 _net11 _net0 Subst="Subst1" W="2.2 mm" L="12 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MLIN:MS5 _net15 _net5 Subst="Subst1" W="2.2 mm" L="12 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MCOUPLED:MS1 _net12 _net13 _net14 _net10 Subst="Subst1" W="2.2 mm" L="57 mm" S="0.55 mm" Model="Kirschning" DispModel="Kirschning" Temp="26.85"
MLIN:MS11 _net16 _net17 Subst="Subst1" W="0.91 mm" L="18 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
